US07115767B2
3,4-Dihydro-1H-naphthalene-2,2-dicarboxylic acid tert-butyl ester
To a THF solution (40 mL) of iPr2NH (7.6 g, 75 mmol) was added n-BuLi (2.2 M, 34 mL, 75 mmol) at −78° C. A THF solution (15 mL) of 1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid methyl ester was added to the freshly made LDA solution at −78° C. BOC2O (16.5 g, 75 mmol) in THF (10 mL) was added after 45 minutes and the mixture was stirred for 3 hours after which aqueous NH4Cl was added and extracted with ethyl acetate (3×75 mL) The combined organic layers were dried with MgSO4, filtered, concentrated under reduced pressure to provide the titled compound. The material was dissolved in methanol (30 mL) and water (5 mL) followed by addition of LiOH monohydrate (6.1 g, 150 mmol). The mixture was stirred for 18 hours followed by the addition of 10% HCl until pH=3 was achieved. This mixture was extracted with ethyl acetate (3×50 mL). The combined organic layers were dried with MgSO4, filtered, concentrated under reduced pressure to provide the titled compound to provide the titled compound (16 g).

reactant | iPr2NH | 75 mmol, 7.6 g | N(C(C)C)C(C)C | C6H15N
reactant | n-BuLi | 75 mmol, 2.2 M, 34 mL | [Li]CCCC
reactant | 1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid methyl ester | COC(=O)C1CC2=CC=CC=C2CC1 | C12H14O2
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | BOC2O | 75 mmol, 16.5 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 3,4-Dihydro-1H-naphthalene-2,2-dicarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1(CC2=CC=CC=C2CC1)C(=O)O | C16H20O4
